US06525042B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-methoxycarbonylmethyl-1-[4-(pyridin-2-yl)benzoyl]piperazine
In a similar manner to Referential Example 116 except for the use of 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-methoxycarbonylmethylpiperazine and 4-(2-pyridyl)benzoic acid hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-methoxycarbonylmethylpiperazine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)CC(=O)OC | C17H19ClN2O4S
reactant | 4-(2-pyridyl)benzoic acid hydrochloride | Cl.N1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-methoxycarbonylmethyl-1-[4-(pyridin-2-yl)benzoyl]piperazine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(C1=CC=C(C=C1)C1=NC=CC=C1)=O)CC(=O)OC | C29H26ClN3O5S
